US06300363B1
Step 1. 3-Acetoxymethyl-2-(bromoacetyl)furan
3-Acetoxymethyl-2-acetylfuran (1.7 g, 9.3 mmol, prepared according to the procedure described in Acta. Chemica. Scandinavia, 1990, 44, 916) was dissolved in acetic acid (30 ml). To the solution was added pyridinium tribromide (3.3 g, 10.2 mmol) and the resulting mixture was stirred at room temperature for 3 h. The mixture was cooled to 0° C. and saturated aqueous sodium bicarbonate added dropwise until the solution was basic. The mixture was extracted with ethyl acetate (100 ml). The organic extract was washed with brine (100 ml), dried (MgSO4) and concentrated to give 2.3 g (95%) of the title compound. 1H-NMR (CDCl3) δ: 7.54 (1 H, d, J=1.6 Hz), 6.65 (1 H, d, J=1.6 Hz), 5.38 (2 H, s), 4.37 (2 H, s), 2.09 (3 H, s).

reactant | 3-Acetoxymethyl-2-acetylfuran | C(C)(=O)OCC1=C(OC=C1)C(C)=O | C9H10O4
reactant | pyridinium tribromide | 10.2 mmol, 3.3 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-Acetoxymethyl-2-(bromoacetyl)furan | 2.3 g, 95% | C(C)(=O)OCC1=C(OC=C1)C(CBr)=O | C9H9BrO4
